US09428490B2
(Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.5 g, 1.0 eq.) was dissolved in DCM (20 mL). The reaction mixture was cooled to −60° C. where methylazetidine-3-carboxylate hydrochloride (0.25 g, 1.2 eq.), T3P (50% in EtOAc) (1.0 mL, 1.2 eq.) followed by DIPEA (0.48 mL, 2 eq.) were added. The clear reaction mixture was stirred at −60° C. for 45 min. The reaction mixture was concentrated under reduced pressure (25° C., 20 mm Hg) to afford the crude product, which was purified by chromatography (2-3% Methanol in DCM) to give (Z)-methyl 1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)azetidine-3-carboxylate (0.15 g, 24% yield).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.5 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | methylazetidine-3-carboxylate hydrochloride | 0.25 g, 1.2 eq. | Cl.COC(=O)C1CNC1
reactant | T3P | 1.0 mL, 1.2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.48 mL, 2 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (Z)-methyl 1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)azetidine-3-carboxylate | 0.15 g, 24% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC(C1)C(=O)OC)(F)F | C18H14F6N4O3
